Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
arm swelling
 
Major Surgical or Invasive Procedure:
Aspiration of L arm abscess 
 
History of Present Illness:
___ is a ___ with a history of IVDU on suboxone and
hepatitis C infection s/p Epclusa (sofosbuvir and velpatasvir)
with subsequent undetectable VL who presents with fevers and
redness and swelling of his arms after IVDU. He reports that he
injected cocaine into both arms 3 days prior to presentation.
Says he used a new, clean needle. One day prior to presentation
he developed redness, swelling, and pain at all 4 injection 
sites
as well as fever.  

- In the ED, initial VS were:  98.8 80 134/57 20 100% RA

- Exam notable for: Enlarged, edematous left forearm that is
erythematous. Two other 2cm areas of induration on the right
forearm that are also tender and erythematous. RRR, no murmur.
CTAB. NTND abd. No c/c/e.

- Labs showed:
Na 141
K 4.1
BUN/Cr 100/1.0

WBC 9.8
Hgb 13.1
Plts 156 

Lactate: 1.5

- Imaging showed: 
CXR: no pneumonia 

ED Bedside US: deep abscesses with small fluid pockets and lots
of surrounding cellulitis, not conducive to drainage at this
time.

 
Past Medical History:
- IVDU, on Suboxone 
- Hepatitis C, genotype 3A, s/p Epclusa (sofosbuvir and
___
 
Social History:
___
Family History:
Mother healthy, father deceased from heroin overdose. Two 
healthy
brothers. 

 
Physical Exam:
Admission Exam:
VS: 98.6 118/76 61 20 99 Ra   
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, conjunctivae
noninjected, MMM    
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding
EXTREMITIES: warm, no edema  
NEURO: A&Ox3, CN II-XII intact, strength ___ in UE and ___
bilaterally.

Discharge Exam:
VITALS: 97.8 PO 118 / 72 R Lying 58 18 98 Ra 
GENERAL: Lying in bed comfortably, NAD, AOx3
HEENT: PERRLA, EOMI, MMM
CV: RRR, no rubs/m/g
RESP: CTAB
GI: soft, +BS, NTND, no hepatosplenomegaly
MSK: Left forearm with improved inflammation and overlying 
erythema on the flexor aspect. Palpable abscess more distally on 
the forearm. Right arm with small round abscess in the proximal 
forerm without overlying erythema but TTP, improved 
Skin: as above, no ___ lesions on hands or feet
 
Pertinent Results:
Admission labs:

___ 01:45AM BLOOD WBC-9.8 RBC-4.03* Hgb-13.1* Hct-38.6* 
MCV-96 MCH-32.5* MCHC-33.9 RDW-12.4 RDWSD-43.8 Plt ___
___ 01:45AM BLOOD ALT-40 AST-47* AlkPhos-65 TotBili-0.2
___ 05:46AM BLOOD Calcium-8.9 Phos-4.7* Mg-2.2
___ 02:15AM BLOOD Lactate-1.5

Discharge labs:

___ 06:33AM BLOOD WBC-9.7 RBC-4.38* Hgb-14.2 Hct-41.7 
MCV-95 MCH-32.4* MCHC-34.1 RDW-12.4 RDWSD-43.8 Plt ___
___ 06:33AM BLOOD Plt ___
___ 06:33AM BLOOD Glucose-83 UreaN-16 Creat-0.9 Na-145 
K-4.7 Cl-104 HCO___ AnGap-12
___ 06:33AM BLOOD Calcium-8.9 Phos-5.3* Mg-2.1

Imaging:
___ ultrasound
1. Subcutaneous edema and inflammatory changes are seen in the 
bilateral 
forearms. There are no drainable fluid collections bilaterally 
2. Distal to the right antecubital fossa there is an 
approximately 5 mm pocket 
of fluid which may contain approximately 0.25 cc of fluid which 
could be 
aspirated for culture. Additionally on the anterolateral aspect 
of the left 
forearm there is a sub-centimeter pocket of fluid which may be 
amenable for 
aspiration of approximately 0.5 cc of fluid for culture, if 
needed.. 

___ CXR
No pneumonia 
 
Brief Hospital Course:
Patient summary:
===================
___ with a history of IVDU on suboxone and hepatitis C infection 
s/p Epclusa (sofosbuvir and velpatasvir)with subsequent 
undetectable VL who presented with subjective fevers, redness 
and swelling of his arms after IVDU in bilateral forearm. Found 
to have significant swelling and edema of the right arm and 
small abscesses in the right and left forearm that were too 
small for drainage (containing 0.5cc of fluid). Started on IV 
vanc/ceftaz/flagyl as patient licked needle before injection. 
Obtained minimal aspiration for culture, pending now. Symptoms 
improved and he was discharged on clindamycin/levaquin for broad 
coverage for 14 days (___) 

Active issues:
=================
# Cellulitis w/ small abscess: Injected IV drugs in bilateral 
forearms and found to have significant swelling and edema of the 
right arm and small abscesses in the right and left forearm with 
overlying erythema that were too small for drainage (containing 
0.5cc of fluid). Started on IV vanc/ceftaz/flagyl as patient 
licked needle before injection. Obtained minimal aspiration for 
culture, pending now. Symptoms improved and d/c on 
Clindamycin/levaquin for broad coverage of MRSA, GNR, anaerobes 
for 14 days (___). Will plan for follow up in 1 week with 
PCP. 

# IVDU on suboxone: verified suboxone on ___. Continued on 
suboxone inpatient. Notes getting medications at ___. Patient 
not interested in SW inpatient currently and notes that he plans 
on seeing Suboxone therapist and provider next week. PCP 
notified of admission. 

CHRONIC/Resolved ISSUES:
# History of hepatitis C infection: genotype 3A s/p Epclusa 
(sofosbuvir and velpatasvir). VL undectable at last check ___ 
with mildy elevated AST that resolved on further testing.

# Headache, rhinorrhea, sore throat: likely viral URI. Resolved.
# Anemia: normocytic. No evidence of bleeding. Likely in the 
setting of active inflammation and remained stable. 

TRANSITIONAL ISSUES: 
- New Meds: Clindamycin, Levaquin (___) 
- Stopped/Held Meds: None
- Changed Meds: None 
- Post-Discharge Follow-up Labs Needed: None 

#CODE: Full (presumed) 
#CONTACT: not given 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 800 mg PO TID 
2. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL BID 

 
Discharge Medications:
1.  Clindamycin 300 mg PO Q6H 
RX *clindamycin HCl [Cleocin HCl] 300 mg 1 capsule(s) by mouth 
q6hr Disp #*44 Capsule Refills:*0 
2.  Levofloxacin 500 mg PO Q24H 
RX *levofloxacin [Levaquin] 500 mg 1 tablet(s) by mouth daily 
Disp #*11 Tablet Refills:*0 
3.  Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL BID  
4.  Gabapentin 800 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Cellulitis with abscesses

Secondary diagnosis:
History of Intravenous drug use on suboxone 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
- You had an infection of your skin and deep tissue on both arms 
with abscesses

WHAT HAPPENED IN THE HOSPITAL?
- We started on you antibiotics to treat the underlying 
infection
- you had ultrasounds to check for deep abscesses that needed to 
be opened and drained but you didn't have anything that required 
drainage
-Small abscess in the left arm was aspirated and sent for 
cultures to try to isolate the exact bacteria causing infection 
- Intravenous antibiotics were changed to ones by mouth 

WHAT SHOULD YOU DO AT HOME?
- Continue with oral antibiotics (clindamycin and Levaquin) as 
schedule (___)
- Follow up with your primary care doctor in 1 week
- Report to primary care or urgent care if you have worsening 
symptoms, increase in size of the abscess on the arm or feel 
feverish 
- Report to ___ clinic as scheduled next week 

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team

 
Followup Instructions:
___